US08791129B2
{2-Amino-6-[2-(tert-butylaminomethyl)-4,5-difluorophenyl]quinazolin-4-yl}-(1,3-dihydroisoindol-2-yl)methanone (“A46”)
184 mg of (2-bromo-4,5-difluorobenzyl)-tert-butylamine, 166 mg of potassium carbonate, 11 μl of water and 25 mg of [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloride are added to a solution of 250 mg of [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone in 10 ml of ethanol under argon. The mixture is heated at 120° C. for 30 min; the hot mixture is filtered through kieselguhr, and the filtrate is evaporated. and purified by chromatography (reversed phase HPLC).

reactant | (2-bromo-4,5-difluorobenzyl)-tert-butylamine | 184 mg | BrC1=C(CNC(C)(C)C)C=C(C(=C1)F)F | C11H14BrF2N
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 11 μl | O | H2O
reactant | [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 250 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C23H25BN4O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloride | 25 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | {2-Amino-6-[2-(tert-butylaminomethyl)-4,5-difluorophenyl]quinazolin-4-yl}-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)F)F)CNC(C)(C)C | C28H27F2N5O
